US05698735
27.8 g (0.2 mol) of n-butyl hydroxyacetate (95% pure by GC) and 20.2 g (0.2 mol) of triethylamine are first introduced into 300 ml of dichloromethane at -5° C. 34.4 g (0.3 mol) of methanesulfonyl chloride in 50 ml of dichloromethane are slowly added dropwise at 0° to 5° C. Stirring of the batch at 0° C. is continued overnight, ice water is added, the phases are separated, and the aqueous phase is extracted twice with dichloromethane. The combined organic phases are dried, and the solvent is removed on a rotary evaporator leaving a colorless oil which is subjected to incipient distillation in vacuo. n-Butyl methylsulfonyloxyacetate is isolated as an almost colorless oil (40.5 g, 96.3% of theory, GC content 91%).

reactant | n-butyl hydroxyacetate | 0.2 mol, 27.8 g | OCC(=O)OCCCC | C6H12O3
reactant | triethylamine | 0.2 mol, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.3 mol, 34.4 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | n-Butyl methylsulfonyloxyacetate | CS(=O)(=O)OCC(=O)OCCCC | C7H14O5S
